US05631280
Step 1: Preparation of 4-(phenoxy)nitrobenzene (53)
To a solution of 4-fluoronitrobenzene (0.50 mL) and phenol (443 mg) in 5.0 mL of dimethylformamide was added K2CO3 (1.27 g). The reaction was warmed to 70° C. for 20 h, then cooled to room temperature and poured into ethyl acetate and water. The organic layer was washed with water, sat. aq. NaHCO3 solution, and brine. The solution was dried (Na2SO4), filtered, and concentrated in vacuo to provide the crude product as a yellow solid.

reactant | 4-fluoronitrobenzene | 0.50 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | phenol | 443 mg | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 1.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(phenoxy)nitrobenzene | O(C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
